US08044068B2
To a mixture of 2-chloro-6-hydroxy-4-methylquinoline (0.153 g), Pd2(dba)3 (0.036 g), (±)-BINAP (0.073 g), 1-((3R,4R)-3-amino-4-methoxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.25 g), and 1,4-dioxane (7 mL) was added sodium t-butoxide (0.241 g) under nitrogen atmosphere, and the mixture was stirred at 65° C. for 3 h. Pd2(dba)3 (0.036 g), (±)-BINAP (0.073 g), and sodium t-butoxide (0.241 g) were further added, and the mixture was stirred at 65° C. for 5 h. The reaction mixture was diluted with ethyl acetate and water, then the interlayer was removed by Celite filtration, and the organic layer washed with saturated brine. The organic layer was dried with anhydrous magnesium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel, chloroform/methanol and NH silica gel, ethyl acetate) to obtain colorless amorphous 1-((3R,4R)-3-(6-hydroxy-4-methylquinolin-2-ylamino)-4-methoxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.064 g).

reactant | 2-chloro-6-hydroxy-4-methylquinoline | 0.153 g | ClC1=NC2=CC=C(C=C2C(=C1)C)O | C10H8ClNO
reactant | 1-((3R,4R)-3-amino-4-methoxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.25 g | N[C@@H]1CN(C[C@H]1OC)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C14H17F3N2O3
reactant | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
reactant | sodium t-butoxide | 0.241 g | CC(C)([O-])C.[Na+]
reactant | sodium t-butoxide | 0.241 g | CC(C)([O-])C.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Pd2(dba)3 | 0.036 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd2(dba)3 | 0.036 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-((3R,4R)-3-(6-hydroxy-4-methylquinolin-2-ylamino)-4-methoxypyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.064 g | OC=1C=C2C(=CC(=NC2=CC1)N[C@@H]1CN(C[C@H]1OC)C(CC1=CC=C(C=C1)OC(F)(F)F)=O)C | C24H24F3N3O4
